US04721791
3,5-Di(trichlorovinyl)benzyl azide
A solution of crude 3,5-di(trichlorovinyl)benzyl bromide (7.9 g) and sodium azide (1.9 g) in 200 ml of ethanol was heated at reflux for 1.5 hours. The reaction mixture was concentrated and the residue partitioned between 100 ml of ether and 100 ml of water. The layers were separated and the aqueous phase further extracted with ether. The ethereal layers were washed with water, dried with MgSO4, and concentrated to give 7.03 g of an oil. This material was chromatographed on silica gel (hexane then 90:10 hexane:CH2Cl2) to give 3.52 g of pure azide.

reactant | 3,5-di(trichlorovinyl)benzyl bromide | 7.9 g | ClC(=C(Cl)Cl)C=1C=C(CBr)C=C(C1)C(=C(Cl)Cl)Cl | C11H5BrCl6
reactant | sodium azide | 1.9 g | [N-]=[N+]=[N-].[Na+]
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 3,5-Di(trichlorovinyl)benzyl azide | 7.03 g | ClC(=C(Cl)Cl)C=1C=C(CN=[N+]=[N-])C=C(C1)C(=C(Cl)Cl)Cl | C11H5Cl6N3
